Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
NONE
 
History of Present Illness:
Ms. ___ is a ___
female with a history of Crohn disease who presents with
gastrointestinal distress. ___ endorses a constellation of
nausea, vomiting, abdominal pain, and diarrhea beginning two 
days
ago. She thinks a spicy food item at a party on ___ evening
was provocative. None of her friends became ill. She has
abstained from alcohol since she began Vivitrol four months ago.
She awoke early ___ morning nauseated and proceeded to vomit
half a dozen times that day and again a few times on ___
morning. She notes a similar number of episodes of non-bloody
diarrhea that day too. Her last bowel movement was not long
before arrival here. She developed a sharp left-sided abdominal
pain that she likens to her usual Crohn flare, which ultimately
prompted her to seek care. Her appetite is preserved. In fact,
she attempts to eat, but her symptoms worsen thereafter. She has
not meaningfully been able to tolerate fluid by mouth since, in
that regard. She is afebrile and hemodynamically stable. Her
abdomen is benign. CBC, electrolytes, renal and hepatic function
are all within normal limits, as is lipase. Lactate is 1.3. HCG
and serum toxicology are negative. There is pyuria by 
urinalysis.
She therefore received ceftriaxone. She could not tolerate fluid
by mouth, so proceeded with CT abdomen/pelvis, which revealed
small bowel wall thickening suggestive of Crohn flare or other
enteritis. There is no obstruction or abscess. She received one
liter of LR. 

With regard to her Crohn disease, she was diagnosed at the age 
of
___. She is cared for at ___ by Dr. ___. She cannot recall her prior therapies but has been
treated with adalimumab every five weeks since ___. She missed
her dose this past ___. Her last colonoscopy was in ___.
She has not had a flare since the outset of Humira.
 
Past Medical History:
-Crohn disease. 
-Mood disorder.
-Vitamin D deficiency.
-Alcohol use disorder in remission.
 
Social History:
___
Family History:
Aunt with h/o colitis.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: T 98.1, HR 63, BP 103/69, 97% RA  
GENERAL: Well appearing young female in no physical distress.  
HEENT: Anicteric sclerae. Oropharynx clear.
NECK: No cervical lymphadenopathy.  
CV: Regular rate and rhythm. S1/S2. No murmur.
LUNGS: Comfortable. Lungs are clear.  
BACK: No CVA tenderness.  
ABDOMEN: Soft. Normal bowels sounds. Non-distended. Tenderness 
in
the epigastrium and left upper quadrant without rebound. Liver
edge is not appreciated. 
EXTREMITIES: No peripheral edema.
SKIN: Within normal limits.
NEURO: Non-focal.

DISCHARGE PHYSICAL EXAM:
========================
24 HR Data (last updated ___ @ 1706)
Temp: 98.3 (Tm 98.4), BP: 99/66 (96-112/63-75), HR: 69 (59-76),
RR: 18 (___), O2 sat: 96% (96-100), O2 delivery: Ra, Wt: 110
lb/49.9 kg  
Gen: lying comfortably in bed, NAD
HEENT: PERRL, EOMI, OP clear
CV: RRR, nl S1, S2, no m/r/g, no JVD
Abd: + BS, soft, NT, ND, no R/G
Ext: lower ext warm without edema
GU: no suprapubic tenderness or CVA tenderness
Neuro: AOx3, CN II-XII intact, ___ strength all ext, sensation
grossly intact to light touch throughout
Psych: pleasant, appropriate affect

 
Pertinent Results:
ADMISSION LABS
==============
Labs:
CBC WNL
BMP WNL
LFTs WNL
Lipase 27
CRP 0.8
Lact 1.3

DISCHARGE LABS
==============
CBC WNL
BMP WNL

CRP 1.0
ESR 2
Adalimumab concentration/anti-Adalimumab Ab: PENDING
C.diff: neg
Norovirus: neg
H.pylori stool Ag: negative

UA (___): sm bld, + nit, lg ___, 30 prot, 10 RBCs, >182 WBCs, 
mod
bact, 4 epis
UCG: neg

Stool cx (___): negative
UCx (___): >100K Klebsiella pneumoniae
   _________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |   
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    32 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

Imaging:
CT A/P w/cont (___):
1. Multiple areas of small bowel wall thickening with areas of
narrowing in the left upper quadrant and distal ileum are 
without
evidence of bowel obstruction or substantial pericolonic fat
stranding.  Findings may be related to Crohn's flare versus 
other
etiology of enteritis.  No organized abdominopelvic fluid
collection.  Very trace pelvic free fluid. 
2. Intramural fat within the cecum and ascending colon may be
related to chronic inflammation. 
 
Brief Hospital Course:
___ with hx of Crohn's disease (on weekly Humira), mood 
disorder,
ETOH abuse (on vivitrol) p/w subacute abdominal pain over weeks
and N/V, LLQ abdominal pain, and diarrhea x 2d, concerning for
Crohn's flare, also diagnosed with uncomplicated cystitis.

# Abdominal pain:
# N/V, possible hematemesis:
# Diarrhea:
# Crohn's disease:
Presented with 3 weeks of subacute abdominal pain and diarrhea
and two days of abdominal pain, N/V, and non-bloody diarrhea
after missing weekly Humira dose. CT A/P showed multiple areas 
of
small bowel wall thickening with areas of narrowing in the left
upper quadrant and distal ileum, without evidence of bowel
obstruction or substantial pericolonic fat stranding. CRP/ESR
were nl, but in discussion with GI, presentation was still
thought most consistent with a Crohn's flare based on review of
her prior presentations to ___, less likely viral
gastroenteritis. Colonoscopy was deferred. C.diff, norovirus,
H.pylori Ag, and stool cultures were negative. Briefly received
ciprofloxacin/flagyl, discontinued early in hospitalization. Per
GI, she was initiated on prednisone 40mg daily with resolution 
of
her symptoms. She was discharged on a prednisone taper (40mg
through ___, 30mg through ___, 20mg pending outpatient GI f/u
for further taper). Per GI, she will resume her weekly Humira on
___ as previously scheduled. She will f/u with her new
outpatient gastroenterologist at ___, Dr. ___, on ___. Should
she remain on >20mg prednisone for over 3 weeks, would consider
PCP ppx and vit D/calcium supplementation.

# Uncomplicated Klebseilla cystitis:
# Microscopic hematuria:
P/w dysuria and urinary frequency, found to have pan-S 
Klebsiella
cystitis, sensitive to Macrobid. She was discharged to complete 
a
5d course of macrobid. Would benefit from repeat UA as 
outpatient
to document resolution of microscopic hematuria.
 
# Mood disorder:
Continued home sertraline and risperidone.

# Hx ETOH abuse:
On vivitrol as outpatient.

** TRANSITIONAL **
-------------------
#Crohn's flare
[ ] Prednisone taper as above; consider PCP prophylaxis, vit 
___
supplementation, PPI if prolonged steroid use
[ ] Follow-up Humira level and antibody, pending at discharge

# Microscopic hematuria
# UTI
[ ] Macrobid through ___
[ ] Would repeat outpatient UA to document resolution of
microscopic hematuria

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 50 mg PO DAILY 
2. RisperiDONE 0.5 mg PO QHS 
3. Naltrexone Extended-release Suspension 380 mg IM EVERY 4  
WEEKS (MO) 
4. Vitamin D ___ UNIT PO DAILY 
5. Humira (adalimumab) 40 mg/0.8 mL subcutaneous 1X/WEEK 

 
Discharge Medications:
1.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO BID Duration: 4 
Days 
RX *nitrofurantoin monohyd/m-cryst [Macrobid] 100 mg 1 
capsule(s) by mouth twice a day Disp #*2 Capsule Refills:*0 
2.  Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 
RX *ondansetron 4 mg 1 tablet(s) by mouth q8hr Disp #*20 Tablet 
Refills:*0 
3.  PredniSONE 40 mg PO DAILY Duration: 3 Doses 
Please take this from ___ 
This is dose # 1 of 2 tapered doses
Tapered dose - DOWN 
RX *prednisone 10 mg 4 tablet(s) by mouth once a day Disp #*12 
Tablet Refills:*0 
4.  PredniSONE 30 mg PO DAILY Duration: 7 Doses 
Please take this medication from ___ 
This is dose # 2 of 2 tapered doses
Tapered dose - DOWN 
RX *prednisone 10 mg 3 tablet(s) by mouth once a day Disp #*21 
Tablet Refills:*0 
5.  PredniSONE 20 mg PO DAILY 
Please take this dose until you follow up with your GI doctor 
___ is the maintenance dose to follow the last tapered dose
Tapered dose - DOWN 
RX *prednisone 20 mg 2 tablet(s) by mouth once a day Disp #*40 
Tablet Refills:*0 
6.  Humira (adalimumab) 40 mg/0.8 mL subcutaneous 1X/WEEK  
7.  Naltrexone Extended-release Suspension 380 mg IM EVERY 4  
WEEKS (MO)  
8.  RisperiDONE 0.5 mg PO QHS  
9.  Sertraline 50 mg PO DAILY  
10.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
=======
Crohn's Disease
Uncomplicated cystitis
Microscopic hematuria
SECONDARY
=========
Mood Disorder
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  
Dear Ms. ___,  

It was a pleasure caring for you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
- You were in the hospital for abdominal pain and diarrhea.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- While you were in the hospital, we started you on steroids for 
your Crohn's flare. You also got antibiotics for your urinary 
tract infection.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Please follow-up with your outpatient GI doctor
- Please follow-up with your PCP for ___ urine test
- Continue to take all your medicines and keep your 
appointments.  

We wish you the best!  

Sincerely,  
Your ___ Team

======================  
DISCHARGE INSTRUCTIONS  
======================  
Dear Ms. ___,  

It was a pleasure caring for you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
- You were in the hospital for abdominal pain and diarrhea.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- While you were in the hospital, we started you on steroids for 
your Crohn's flare. You also got antibiotics for your urinary 
tract infection.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Please follow-up with your outpatient GI doctor
- Please follow-up with your PCP for ___ urine test
- Continue to take all your medicines and keep your 
appointments.  

We wish you the best!  

Sincerely,  
Your ___ Team

 
Followup Instructions:
___